US05201931
Alternative preparation of (3E)-4-(5-acetoxy-3-methyl-1,3-pentadien-1-ylidene)3,5,5-trimethyl-2-cyclohexen-1-one (PBI-27)
To a solution of (3E)-4-(5-hydroxy-3-methyl-1,3-pentadien-1-ylidene)-3,5,5-trimethyl-2-cyclohexen-1-one (1.2 g, 5.2 mmol) in acetic anhydride (5.0 mL) and triethylamine (5.0 mL) cooled to 0° C., was added 4,4-dimethylaminopyridine (25 n g). After 15 min. water was added to the reaction mixture, and the product was extracted three times with ether. The combined ethereal extracts were washed with sodium chloride solution, and dried over anhydrous sodium sulfate. Evaporation of the solvent and chromatography over silica gel in the manner described in Example 1 above gave the desired product (680 mg, 48%).

reactant | (3E)-4-(5-hydroxy-3-methyl-1,3-pentadien-1-ylidene)-3,5,5-trimethyl-2-cyclohexen-1-one | 5.2 mmol, 1.2 g | OC/C=C(/C=C=C1C(=CC(CC1(C)C)=O)C)\C | C15H20O2
reactant | 4,4-dimethylaminopyridine | CNC1(CC=NC=C1)NC | C7H13N3
reactant | water | O | H2O
solvent | acetic anhydride | 5.0 mL | C(C)(=O)OC(C)=O | C4H6O3
solvent | triethylamine | 5.0 mL | C(C)N(CC)CC | C6H15N
product | (3E)-4-(5-acetoxy-3-methyl-1,3-pentadien-1-ylidene)3,5,5-trimethyl-2-cyclohexen-1-one | 680 mg, 48% | C(C)(=O)OC/C=C(/C=C=C1C(=CC(CC1(C)C)=O)C)\C | C17H22O3
